US08258297B2
1-o-Tolyl-1,2,4-triazolo[4,3-f]phenanthridinium chloride
A suspension of N-phenanthridin-6-yl-N′-o-tolylhydrazine hydrochloride (9.0 g, 27 mmol) in triethyl orthoformate (360 ml) is stirred under reflux under argon for 17 h. After cooling to room temperature, the precipitate is filtered off and washed with triethyl orthoformate and cold acetone. Yield: 8.2 g (88%).

reactant | N-phenanthridin-6-yl-N′-o-tolylhydrazine hydrochloride | 27 mmol, 9.0 g | Cl.C1=CC=CC2=NC(=C3C=CC=CC3=C12)NNC1=C(C=CC=C1)C
reactant | triethyl orthoformate | 360 ml | C(OCC)(OCC)OCC | C7H16O3
product | 1-o-Tolyl-1,2,4-triazolo[4,3-f]phenanthridinium chloride | [Cl-].C1(=C(C=CC=C1)[N+]=1N=CN2C=3C=CC=CC3C=3C=CC=CC3C21)C | InChI=1S/C21H16N3.ClH/c1-15-8-2-6-12-19(15)24-21-18-11-4-3-9-16(18)17-10-5-7-13-20(17)23(21)14-22-24;/h2-14H,1H3;1H/q+1;/p-1
